US07723384B2
1-{4-[4-(2-tert-Butyl-6-cyclobutylpyrimidin-4-yl)piperazin-1-yl]butyl}-3,4-dihydro-1H-1-benzazepine-2,5-dione hydrochloride
Analogously to Example 3b, reaction of 2-tert-butyl-4-cyclobutyl-6-piperazin-1-ylpyrimidine (1.97 mmol, 0.54 g) with 1-(4-chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione afforded 0.39 g of the title compound.

reactant | 2-tert-butyl-4-cyclobutyl-6-piperazin-1-ylpyrimidine | 1.97 mmol, 0.54 g | C(C)(C)(C)C1=NC(=CC(=N1)C1CCC1)N1CCNCC1 | C16H26N4
reactant | 1-(4-chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione | ClCCCCN1C(CCC(C2=C1C=CC=C2)=O)=O | C14H16ClNO2
product | 1-{4-[4-(2-tert-Butyl-6-cyclobutylpyrimidin-4-yl)piperazin-1-yl]butyl}-3,4-dihydro-1H-1-benzazepine-2,5-dione hydrochloride | 0.39 g | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN1C(CCC(C2=C1C=CC=C2)=O)=O)C2CCC2 | InChI=1S/C30H41N5O2.ClH/c1-30(2,3)29-31-24(22-9-8-10-22)21-27(32-29)34-19-17-33(18-20-34)15-6-7-16-35-25-12-5-4-11-23(25)26(36)13-14-28(35)37;/h4-5,11-12,21-22H,6-10,13-20H2,1-3H3;1H
